US08182830B2
Copolymerization of Hexyl Methacrylate/Methacrylamide
9.0 g Hexyl methacrylate, 1.0 g methacrylamide, 80 mg. AIBN, 20 g dioxane, and a stir bar were charged into a 60 mL glass bottle, sealed, and purged with Nitrogen for 30 min. This was put into a 60 degree C. oil bath for 3 hr. The solution was slightly hazy before and after heating, with a small amount of undissolved material at completion. The polymer was precipitated into about 300 mL MeOH, and re-dissolved in about 10 mL DCM. The next two precipitations were done into about 150 mL MeOH, and finally it was dissolved in DCM, and dried on a Teflon sheet. This was first air dried, then put under high vacuum at 40 degrees C. overnight. After drying there was approx. 4 g clear, colorless polymer. The polymer has a glass transition temperature of 29.7° C. and a Mn of 163,589.

reactant | Hexyl methacrylate | 9.0 g | C(C(=C)C)(=O)OCCCCCC | C10H18O2
reactant | methacrylamide | 1.0 g | C(C(=C)C)(=O)N | C4H7NO
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | dioxane | 20 g | O1CCOCC1 | C4H8O2
product | Hexyl Methacrylate Methacrylamide | C(C(=C)C)(=O)OCCCCCC.C(C(=C)C)(=O)N | InChI=1S/C10H18O2.C4H7NO/c1-4-5-6-7-8-12-10(11)9(2)3;1-3(2)4(5)6/h2,4-8H2,1,3H3;1H2,2H3,(H2,5,6)
